US06384028B1
To a solution of ethyl 3 azido-2(S)-aminopropionate hydrochloride (0.3 g) in dichloromethane (3 ml) was added triethylamine (0.47 ml) and benzoyl chloride (0.2 ml) under stirring at 0° C. After stirring at ambient temperature for 2 hours, the mixture was poured into water and extracted with dichloromethane. The extract was washed with water, saturated aq. NaHCO3, water and brine, and dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from diethyl ether to give ethyl 3 azido-2(S)-(benzoylamino)propionate (0.35 g).

reactant | ethyl 3 azido-2(S)-aminopropionate hydrochloride | 0.3 g | Cl.N(=[N+]=[N-])C[C@@H](C(=O)OCC)N
reactant | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 3 azido-2(S)-(benzoylamino)propionate | 0.35 g | N(=[N+]=[N-])C[C@@H](C(=O)OCC)NC(C1=CC=CC=C1)=O | C12H14N4O3
